US04089875
A solution of 7.8 g. of [(5-chloro-2-hydroxy-α-phenylbenzyliden)amino] malonic acid diethyl ester in 15 ml. of pyridine is treated at 10°-15° C. with 3.5 ml. of benzoyl chloride. The mixture is stirred at room temperature for 1 hour and then poured on to 150 ml. of ice-water. The separated oil product is extracted with ehter and the organic phase washed with water, then with 2-N sodium carbonate solution and finally with water. After drying over sodium sulfate and evaporation of the solvent, the oily residue is triturated with hexane, crystallization setting in. There is obtained [(2-benzoyloxy-5-chloro-α-phenylbenzyliden)amino] malonic acid diethyl ester in the form of colorless crystals, having a melting point of 108°-110° C. Recrystallization from ethanol increases the melting point to 109°-111° C.

reactant | [(5-chloro-2-hydroxy-α-phenylbenzyliden)amino] malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)N=C(C1=C(C=CC(=C1)Cl)O)C1=CC=CC=C1)=O | C20H20ClNO5
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | [(2-benzoyloxy-5-chloro-α-phenylbenzyliden)amino] malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)N=C(C1=C(C=CC(=C1)Cl)OC(C1=CC=CC=C1)=O)C1=CC=CC=C1)=O | C27H24ClNO6
